US06911465B1
Ethyl 4-chloroacetamido-N-(3,4-dichlorobenzyl)indole-2-carboxylate
Ethyl 4-amino-N-(3,4-dichlorobenzyl)indole-2-carboxylate (2.03 g), chloroacetyl chloride (0.5 ml) and triethylamine (4.0 ml) were stirred in dichloromethane (50 ml) for 16 hours. The reaction was washed with water, dried (MgSO4) and concentrated in vacuo. The residue was triturated with toluene to give the product as a pale grey solid (1.61 g, 65%); NMR d (CD3SOCD3) 1.28 (t, 3H), 4.30 (q, 2H), 4.40 (s, 2H), 5.81 (s, 2H), 6.88 (dd, 1H), 7.30 (m, 3H), 7.50 (d, 1H), 7.76 (s, 1H), 7.78 (d, 1H), 10.19 (brs, 1H); M/z (−) 439 (M+), 4.37.

reactant | Ethyl 4-amino-N-(3,4-dichlorobenzyl)indole-2-carboxylate | 2.03 g | NC1=C2C=C(N(C2=CC=C1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC | C18H16Cl2N2O2
reactant | chloroacetyl chloride | 0.5 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 4.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl 4-chloroacetamido-N-(3,4-dichlorobenzyl)indole-2-carboxylate | 1.61 g, 65% | ClCC(=O)NC1=C2C=C(N(C2=CC=C1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC | C20H17Cl3N2O3
